US04002640
6 G. of 1-acetamido-4-hydroxy-2-nitrobenzene is added to 200 ml. acetone containing 25 g. potassium carbonate and 6 ml. chloromethyl methyl sulfide. The mixture is heated at reflux for four hours and is filtered. The acetone is evaporated leaving 1-acetamido-4-methylthiomethoxy-2-nitrobenzene as a gum. This is purified by column chromatography.

reactant | 1-acetamido-4-hydroxy-2-nitrobenzene | C(C)(=O)NC1=C(C=C(C=C1)O)[N+](=O)[O-] | C8H8N2O4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethyl methyl sulfide | CSCCl | C2H5ClS
solvent | acetone | 25 g | CC(=O)C | C3H6O
product | 1-acetamido-4-methylthiomethoxy-2-nitrobenzene | C(C)(=O)NC1=C(C=C(C=C1)OCSC)[N+](=O)[O-] | C10H12N2O4S
